US07816526B2
Synthesis of 2-ethyl-6-ethylthioimidazo[1,2-b]pyridazin-3-ylsulfonamide
60% sodium hydride (0.19 g, 4.75 mmol) was suspended in DMF (5.0 ml) and ethanethiol (0.29 g, 4.6 mmol) was added thereto with stirring. After evolution of hydrogen was ceased, 6-chloro-2-ethylimidazo[1,2-b]pyridazin-3-ylsulfonamide (0.30 g, 1.15 mmol) was added thereto and stirred at 50° C. for 3 hours. After the reaction was completed, the reaction solution was poured into water (50.0 ml) and adjusted to pH 2 with dilute hydrochloric acid, and the precipitated crystals were filtered, washed with water and washed with ether, to give the title compound as pale yellow crystals. The yield was 0.19 g (57.3%).

reactant | sodium hydride | 4.75 mmol, 0.19 g | [H-].[Na+]
reactant | ethanethiol | 4.6 mmol, 0.29 g | C(C)S | C2H6S
reactant | hydrogen | [H][H] | H2
reactant | 6-chloro-2-ethylimidazo[1,2-b]pyridazin-3-ylsulfonamide | 1.15 mmol, 0.30 g | ClC=1C=CC=2N(N1)C(=C(N2)CC)S(=O)(=O)N | C8H9ClN4O2S
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | water | 50.0 ml | O | H2O
product | 2-ethyl-6-ethylthioimidazo[1,2-b]pyridazin-3-ylsulfonamide | C(C)C=1N=C2N(N=C(C=C2)SCC)C1S(=O)(=O)N | C10H14N4O2S2
